US05486274
A solution of potassium hydroxide (11.2 parts) in water (22 parts) was added dropwise to a stirred solution of 3,4,5,6-tetra-chloro-1,2-dicyanobenzene (26.6 parts) and phenol (9.4 parts) in acetone (100 parts) at 0° C. The solution was stirred at 60° C. for 2 hours before pouring into water (500 parts). The aqueous mixture was extracted with dichloromethane (3×500 parts). The dichloromethane extracts were washed with water (3×200 parts), dried over anhydrous Na2SO4, filtered and the dichloromethane was removed under reduced pressure to leave a brown solid. The solid was recrystallised from butan-1-ol. 3,5,6-Trichloro-l,2-dicyano-4-phenoxybenzene (17 parts) was obtained as a brown solid, m.p. 147°-150° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3,4,5,6-tetra-chloro-1,2-dicyanobenzene | ClC=1C(=C(C(=C(C1Cl)Cl)Cl)C#N)C#N | C8Cl4N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3,5,6-Trichloro-l,2-dicyano-4-phenoxybenzene | ClC=1C(=C(C(=C(C1OC1=CC=CC=C1)Cl)Cl)C#N)C#N | C14H5Cl3N2O
